US09056866B2
2-[5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl]-1-phenyl-ethanol
A mixture of 2-(5-tert-butyl-7-(3,3-difluoropyrrolidin-1-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-1-phenylethanone (6.0 mg, 15.0 μmol) and NaBH4 (1.7 mg, 45.0 μmol) in methanol (250 μL) was stirred at the room temperature for 1 h. The reaction mixture was directly purified by preparative HPLC (column: Gemini 5 um C18 110A 75×30 mm. mobile phase: water (0.05% Et3N): acetonitrile 72:25% to 5:95%. WL: 230 nm Flow: 30 mL/min.) to afford the title compound as white solid (2.3 mg, 38%). MS(m/e): 403.4 (MH+).

reactant | 2-(5-tert-butyl-7-(3,3-difluoropyrrolidin-1-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-1-phenylethanone | 15.0 μmol, 6.0 mg | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC(=O)C2=CC=CC=C2)N2CC(CC2)(F)F | C20H22F2N6O
reactant | NaBH4 | 45.0 μmol, 1.7 mg | [BH4-].[Na+]
solvent | methanol | 250 μL | CO | CH4O
product | 2-[5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl]-1-phenyl-ethanol | 2.3 mg, 38% | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC(O)C2=CC=CC=C2)N2CC(CC2)(F)F | C20H24F2N6O
